US08378104B2
Step C: 4-fluoro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-benzothiazole
A mixture of 7-bromo-4-fluoro-1,2-benzothiazole (400.0 mg, 1.724 mmol), bis(pinacolato)diboron (523 mg, 2.06 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (63.0 mg, 0.0862 mmol), and potassium acetate (295 mg, 3.01 mmol) in 1,4-dioxane (30 mL) was heated to 90° C. for 2 h. The solution was concentrated in vacuo, and the residue purified by column chromatography (1 to 3% EtOAc:heptane) to afford 260 mg (54%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 1.41 (s, 12 H), 7.08 (dd, J=9.9, 7.8 Hz, 1 H), 7.96 (dd, J=7.8, 5.3 Hz, 1 H), 9.03 (s, 1 H); MS (ESI): 280.10 [M+H]+; HPLC tR=1.80 min (TOF: polar—3 min).

reactant | 7-bromo-4-fluoro-1,2-benzothiazole | 1.724 mmol, 400.0 mg | BrC1=CC=C(C=2C=NSC21)F | C7H3BrFNS
reactant | bis(pinacolato)diboron | 2.06 mmol, 523 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.01 mmol, 295 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.0862 mmol, 63.0 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-fluoro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-benzothiazole | 260 mg, 54% | FC1=CC=C(C2=C1C=NS2)B2OC(C(O2)(C)C)(C)C | C13H15BFNO2S
